* /home/ameya/eSim-Workspace/b55/b55.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: Wed Aug 12 20:06:13 2020

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
R2  /vdd Net-_R2-Pad2_ 10		
R3  Net-_R2-Pad2_ Net-_R3-Pad2_ 10		
R4  Net-_R3-Pad2_ Net-_R4-Pad2_ 10		
VrefH1  /vdd GND 3.3		
v1  d0 GND pulse		
R5  Net-_R4-Pad2_ Net-_R5-Pad2_ 10		
R6  Net-_R5-Pad2_ Net-_R6-Pad2_ 10		
R7  Net-_R6-Pad2_ Net-_R7-Pad2_ 10		
R8  Net-_R7-Pad2_ Net-_R8-Pad2_ 10		
X1  d5 /vdd Net-_R8-Pad2_ Net-_R7-Pad2_ Net-_X1-Pad6_ swi		
X5  d5 /vdd Net-_R6-Pad2_ Net-_R5-Pad2_ Net-_X17-Pad5_ swi		
X13  d5 /vdd Net-_R4-Pad2_ Net-_R3-Pad2_ Net-_X13-Pad6_ swi		
X4  d5 /vdd Net-_R2-Pad2_ /vdd Net-_X16-Pad5_ swi		
R9  Net-_R8-Pad2_ Net-_R10-Pad1_ 10		
R10  Net-_R10-Pad1_ Net-_R10-Pad2_ 10		
R11  Net-_R10-Pad2_ Net-_R11-Pad2_ 10		
X6  d5 /vdd Net-_R10-Pad2_ Net-_R10-Pad1_ Net-_X18-Pad5_ swi		
R12  Net-_R11-Pad2_ Net-_R12-Pad2_ 10		
R13  Net-_R12-Pad2_ Net-_R13-Pad2_ 10		
R14  Net-_R13-Pad2_ Net-_R14-Pad2_ 10		
R15  Net-_R14-Pad2_ Net-_R15-Pad2_ 10		
R16  Net-_R15-Pad2_ Net-_R16-Pad2_ 10		
R17  Net-_R16-Pad2_ Net-_R17-Pad2_ 10		
R18  Net-_R17-Pad2_ Net-_R18-Pad2_ 10		
X2  d5 /vdd Net-_R18-Pad2_ Net-_R17-Pad2_ Net-_X2-Pad6_ swi		
X8  d5 /vdd Net-_R16-Pad2_ Net-_R15-Pad2_ Net-_X19-Pad4_ swi		
X14  d5 /vdd Net-_R14-Pad2_ Net-_R13-Pad2_ Net-_X14-Pad6_ swi		
X7  d5 /vdd Net-_R12-Pad2_ Net-_R11-Pad2_ Net-_X18-Pad4_ swi		
R19  Net-_R18-Pad2_ Net-_R19-Pad2_ 10		
R20  Net-_R19-Pad2_ Net-_R20-Pad2_ 10		
R21  Net-_R20-Pad2_ Net-_R21-Pad2_ 10		
R22  Net-_R21-Pad2_ Net-_R22-Pad2_ 10		
R23  Net-_R22-Pad2_ Net-_R23-Pad2_ 10		
R24  Net-_R23-Pad2_ Net-_R24-Pad2_ 10		
R25  Net-_R24-Pad2_ Net-_R25-Pad2_ 10		
R26  Net-_R25-Pad2_ Net-_R26-Pad2_ 10		
R27  Net-_R26-Pad2_ Net-_R27-Pad2_ 10		
R28  Net-_R27-Pad2_ Net-_R28-Pad2_ 10		
X3  d5 /vdd Net-_R28-Pad2_ Net-_R27-Pad2_ Net-_X22-Pad4_ swi		
X11  d5 /vdd Net-_R26-Pad2_ Net-_R25-Pad2_ Net-_X11-Pad6_ swi		
X15  d5 /vdd Net-_R24-Pad2_ Net-_R23-Pad2_ Net-_X15-Pad6_ swi		
X10  d5 /vdd Net-_R22-Pad2_ Net-_R21-Pad2_ Net-_X10-Pad6_ swi		
R29  Net-_R28-Pad2_ Net-_R29-Pad2_ 10		
R30  Net-_R29-Pad2_ Net-_R30-Pad2_ 10		
R31  Net-_R30-Pad2_ Net-_R31-Pad2_ 10		
X12  d5 /vdd Net-_R30-Pad2_ Net-_R29-Pad2_ Net-_X12-Pad6_ swi		
R32  Net-_R31-Pad2_ h1 10		
X16  d6 /vdd Net-_X13-Pad6_ Net-_X16-Pad5_ Net-_X16-Pad6_ swi		
X17  d6 /vdd Net-_X1-Pad6_ Net-_X17-Pad5_ Net-_X17-Pad6_ swi		
X18  d6 /vdd Net-_X18-Pad4_ Net-_X18-Pad5_ Net-_X18-Pad6_ swi		
X19  d6 /vdd Net-_X19-Pad4_ Net-_X14-Pad6_ Net-_X19-Pad6_ swi		
X20  d6 /vdd Net-_X20-Pad4_ Net-_X2-Pad6_ Net-_X20-Pad6_ swi		
X21  d6 /vdd Net-_X15-Pad6_ Net-_X10-Pad6_ Net-_X21-Pad6_ swi		
X22  d6 /vdd Net-_X22-Pad4_ Net-_X11-Pad6_ Net-_X22-Pad6_ swi		
X24  d7 /vdd Net-_X17-Pad6_ Net-_X16-Pad6_ Net-_X24-Pad6_ swi		
X25  d7 /vdd Net-_X19-Pad6_ Net-_X18-Pad6_ Net-_X25-Pad6_ swi		
X26  d7 /vdd Net-_X21-Pad6_ Net-_X20-Pad6_ Net-_X26-Pad6_ swi		
X27  d7 /vdd Net-_X23-Pad6_ Net-_X22-Pad6_ Net-_X27-Pad6_ swi		
X28  d8 /vdd Net-_X25-Pad6_ Net-_X24-Pad6_ Net-_X28-Pad6_ swi		
X29  d8 /vdd Net-_X27-Pad6_ Net-_X26-Pad6_ Net-_X29-Pad6_ swi		
X30  d9 /vdd Net-_X29-Pad6_ Net-_X28-Pad6_ /out1 swi		
X23  d6 /vdd Net-_X23-Pad4_ Net-_X12-Pad6_ Net-_X23-Pad6_ swi		
R33  h1 Net-_R33-Pad2_ 10		
R34  Net-_R33-Pad2_ Net-_R34-Pad2_ 10		
R35  Net-_R34-Pad2_ Net-_R35-Pad2_ 10		
R36  Net-_R35-Pad2_ Net-_R36-Pad2_ 10		
R37  Net-_R36-Pad2_ Net-_R37-Pad2_ 10		
R38  Net-_R37-Pad2_ Net-_R38-Pad2_ 10		
R39  Net-_R38-Pad2_ Net-_R39-Pad2_ 10		
R40  Net-_R39-Pad2_ Net-_R40-Pad2_ 10		
X31  d0 /vdd Net-_R40-Pad2_ Net-_R39-Pad2_ Net-_X31-Pad6_ swi		
X35  d0 /vdd Net-_R38-Pad2_ Net-_R37-Pad2_ Net-_X35-Pad6_ swi		
X43  d0 /vdd Net-_R36-Pad2_ Net-_R35-Pad2_ Net-_X43-Pad6_ swi		
X34  d0 /vdd Net-_R34-Pad2_ Net-_R33-Pad2_ Net-_X34-Pad6_ swi		
R41  Net-_R40-Pad2_ Net-_R41-Pad2_ 10		
R42  Net-_R41-Pad2_ Net-_R42-Pad2_ 10		
R43  Net-_R42-Pad2_ Net-_R43-Pad2_ 10		
X36  d0 /vdd Net-_R42-Pad2_ Net-_R41-Pad2_ Net-_X36-Pad6_ swi		
R44  Net-_R43-Pad2_ Net-_R44-Pad2_ 10		
R45  Net-_R44-Pad2_ Net-_R45-Pad2_ 10		
R46  Net-_R45-Pad2_ Net-_R46-Pad2_ 10		
R47  Net-_R46-Pad2_ Net-_R47-Pad2_ 10		
R48  Net-_R47-Pad2_ Net-_R48-Pad2_ 10		
R49  Net-_R48-Pad2_ Net-_R49-Pad2_ 10		
R50  Net-_R49-Pad2_ Net-_R50-Pad2_ 10		
X32  d0 /vdd Net-_R50-Pad2_ Net-_R49-Pad2_ Net-_X32-Pad6_ swi		
X38  d0 /vdd Net-_R48-Pad2_ Net-_R47-Pad2_ Net-_X38-Pad6_ swi		
X44  d0 /vdd Net-_R46-Pad2_ Net-_R45-Pad2_ Net-_X44-Pad6_ swi		
X37  d0 /vdd Net-_R44-Pad2_ Net-_R43-Pad2_ Net-_X37-Pad6_ swi		
R51  Net-_R50-Pad2_ Net-_R51-Pad2_ 10		
R52  Net-_R51-Pad2_ Net-_R52-Pad2_ 10		
R53  Net-_R52-Pad2_ Net-_R53-Pad2_ 10		
X39  d0 /vdd Net-_R52-Pad2_ Net-_R51-Pad2_ Net-_X39-Pad6_ swi		
R54  Net-_R53-Pad2_ Net-_R54-Pad2_ 10		
R55  Net-_R54-Pad2_ Net-_R55-Pad2_ 10		
R56  Net-_R55-Pad2_ Net-_R56-Pad2_ 10		
R57  Net-_R56-Pad2_ Net-_R57-Pad2_ 10		
R58  Net-_R57-Pad2_ Net-_R58-Pad2_ 10		
R59  Net-_R58-Pad2_ Net-_R59-Pad2_ 10		
R60  Net-_R59-Pad2_ Net-_R60-Pad2_ 10		
X33  d0 /vdd Net-_R60-Pad2_ Net-_R59-Pad2_ Net-_X33-Pad6_ swi		
X41  d0 /vdd Net-_R58-Pad2_ Net-_R57-Pad2_ Net-_X41-Pad6_ swi		
X45  d0 /vdd Net-_R56-Pad2_ Net-_R55-Pad2_ Net-_X45-Pad6_ swi		
X40  d0 /vdd Net-_R54-Pad2_ Net-_R53-Pad2_ Net-_X40-Pad6_ swi		
R61  Net-_R60-Pad2_ Net-_R61-Pad2_ 10		
R62  Net-_R61-Pad2_ Net-_R62-Pad2_ 10		
R63  Net-_R62-Pad2_ Net-_R63-Pad2_ 10		
X42  d0 /vdd Net-_R62-Pad2_ Net-_R61-Pad2_ Net-_X42-Pad6_ swi		
R64  Net-_R63-Pad2_ GND 10		
X46  d1 /vdd Net-_X43-Pad6_ Net-_X34-Pad6_ Net-_X46-Pad6_ swi		
X47  d1 /vdd Net-_X31-Pad6_ Net-_X35-Pad6_ Net-_X47-Pad6_ swi		
X48  d1 /vdd Net-_X37-Pad6_ Net-_X36-Pad6_ Net-_X48-Pad6_ swi		
X49  d1 /vdd Net-_X38-Pad6_ Net-_X44-Pad6_ Net-_X49-Pad6_ swi		
X50  d1 /vdd Net-_X39-Pad6_ Net-_X32-Pad6_ Net-_X50-Pad6_ swi		
X51  d1 /vdd Net-_X45-Pad6_ Net-_X40-Pad6_ Net-_X51-Pad6_ swi		
X52  d1 /vdd Net-_X33-Pad6_ Net-_X41-Pad6_ Net-_X52-Pad6_ swi		
X54  d2 /vdd Net-_X47-Pad6_ Net-_X46-Pad6_ Net-_X54-Pad6_ swi		
X55  d2 /vdd Net-_X49-Pad6_ Net-_X48-Pad6_ Net-_X55-Pad6_ swi		
X56  d2 /vdd Net-_X51-Pad6_ Net-_X50-Pad6_ Net-_X56-Pad6_ swi		
X57  d2 /vdd Net-_X53-Pad6_ Net-_X52-Pad6_ Net-_X57-Pad6_ swi		
X58  d3 /vdd Net-_X55-Pad6_ Net-_X54-Pad6_ Net-_X58-Pad6_ swi		
X59  d3 /vdd Net-_X57-Pad6_ Net-_X56-Pad6_ Net-_X59-Pad6_ swi		
X60  d4 /vdd Net-_X59-Pad6_ Net-_X58-Pad6_ /out2 swi		
X53  d1 /vdd Net-_R63-Pad2_ Net-_X42-Pad6_ Net-_X53-Pad6_ swi		
R1  h1 Net-_R1-Pad2_ 10		
X61  d5 /vdd h1 Net-_R31-Pad2_ Net-_X23-Pad4_ swi		
v3  d1 GND pulse		
v4  d2 GND pulse		
v5  d3 GND pulse		
v6  d4 GND pulse		
v7  d5 GND pulse		
v8  d6 GND pulse		
v9  d7 GND pulse		
v10  d8 GND pulse		
v11  d9 GND pulse		
C2  /out1 GND 1p		
C1  /out2 GND 1p		
v2  Net-_R1-Pad2_ GND DC		
X9  d5 /vdd Net-_R20-Pad2_ Net-_R19-Pad2_ Net-_X20-Pad4_ swi		
U3  /out1 GND plot_v2		
U1  /out2 GND plot_v2		
U2  /aout plot_v1		
C3  /aout GND 1p		
R65  /out1 Net-_R65-Pad2_ 10k		
R66  /out2 Net-_R66-Pad2_ 10k		
R67  Net-_R65-Pad2_ /aout 10k		
X62  GND GND Net-_R66-Pad2_ Net-_R65-Pad2_ GND /vdd /aout opamp_2		
R68  Net-_R66-Pad2_ /aout 10k		

.end
