*  home ameya esim-workspace b55 b55.cir

.include swi.sub
.include opamp_2.sub
r2   vdd net-_r2-pad2_ 10
r3  net-_r2-pad2_ net-_r3-pad2_ 10
r4  net-_r3-pad2_ net-_r4-pad2_ 10
vrefh1   vdd gnd 3.3
v1  d0 gnd pulse(0 1.8 1u 50p 50p 1u 2u)
r5  net-_r4-pad2_ net-_r5-pad2_ 10
r6  net-_r5-pad2_ net-_r6-pad2_ 10
r7  net-_r6-pad2_ net-_r7-pad2_ 10
r8  net-_r7-pad2_ net-_r8-pad2_ 10
x1 d5  vdd net-_r8-pad2_ net-_r7-pad2_ net-_x1-pad6_ swi
x5 d5  vdd net-_r6-pad2_ net-_r5-pad2_ net-_x17-pad5_ swi
x13 d5  vdd net-_r4-pad2_ net-_r3-pad2_ net-_x13-pad6_ swi
x4 d5  vdd net-_r2-pad2_  vdd net-_x16-pad5_ swi
r9  net-_r8-pad2_ net-_r10-pad1_ 10
r10  net-_r10-pad1_ net-_r10-pad2_ 10
r11  net-_r10-pad2_ net-_r11-pad2_ 10
x6 d5  vdd net-_r10-pad2_ net-_r10-pad1_ net-_x18-pad5_ swi
r12  net-_r11-pad2_ net-_r12-pad2_ 10
r13  net-_r12-pad2_ net-_r13-pad2_ 10
r14  net-_r13-pad2_ net-_r14-pad2_ 10
r15  net-_r14-pad2_ net-_r15-pad2_ 10
r16  net-_r15-pad2_ net-_r16-pad2_ 10
r17  net-_r16-pad2_ net-_r17-pad2_ 10
r18  net-_r17-pad2_ net-_r18-pad2_ 10
x2 d5  vdd net-_r18-pad2_ net-_r17-pad2_ net-_x2-pad6_ swi
x8 d5  vdd net-_r16-pad2_ net-_r15-pad2_ net-_x19-pad4_ swi
x14 d5  vdd net-_r14-pad2_ net-_r13-pad2_ net-_x14-pad6_ swi
x7 d5  vdd net-_r12-pad2_ net-_r11-pad2_ net-_x18-pad4_ swi
r19  net-_r18-pad2_ net-_r19-pad2_ 10
r20  net-_r19-pad2_ net-_r20-pad2_ 10
r21  net-_r20-pad2_ net-_r21-pad2_ 10
r22  net-_r21-pad2_ net-_r22-pad2_ 10
r23  net-_r22-pad2_ net-_r23-pad2_ 10
r24  net-_r23-pad2_ net-_r24-pad2_ 10
r25  net-_r24-pad2_ net-_r25-pad2_ 10
r26  net-_r25-pad2_ net-_r26-pad2_ 10
r27  net-_r26-pad2_ net-_r27-pad2_ 10
r28  net-_r27-pad2_ net-_r28-pad2_ 10
x3 d5  vdd net-_r28-pad2_ net-_r27-pad2_ net-_x22-pad4_ swi
x11 d5  vdd net-_r26-pad2_ net-_r25-pad2_ net-_x11-pad6_ swi
x15 d5  vdd net-_r24-pad2_ net-_r23-pad2_ net-_x15-pad6_ swi
x10 d5  vdd net-_r22-pad2_ net-_r21-pad2_ net-_x10-pad6_ swi
r29  net-_r28-pad2_ net-_r29-pad2_ 10
r30  net-_r29-pad2_ net-_r30-pad2_ 10
r31  net-_r30-pad2_ net-_r31-pad2_ 10
x12 d5  vdd net-_r30-pad2_ net-_r29-pad2_ net-_x12-pad6_ swi
r32  net-_r31-pad2_ h1 10
x16 d6  vdd net-_x13-pad6_ net-_x16-pad5_ net-_x16-pad6_ swi
x17 d6  vdd net-_x1-pad6_ net-_x17-pad5_ net-_x17-pad6_ swi
x18 d6  vdd net-_x18-pad4_ net-_x18-pad5_ net-_x18-pad6_ swi
x19 d6  vdd net-_x19-pad4_ net-_x14-pad6_ net-_x19-pad6_ swi
x20 d6  vdd net-_x20-pad4_ net-_x2-pad6_ net-_x20-pad6_ swi
x21 d6  vdd net-_x15-pad6_ net-_x10-pad6_ net-_x21-pad6_ swi
x22 d6  vdd net-_x22-pad4_ net-_x11-pad6_ net-_x22-pad6_ swi
x24 d7  vdd net-_x17-pad6_ net-_x16-pad6_ net-_x24-pad6_ swi
x25 d7  vdd net-_x19-pad6_ net-_x18-pad6_ net-_x25-pad6_ swi
x26 d7  vdd net-_x21-pad6_ net-_x20-pad6_ net-_x26-pad6_ swi
x27 d7  vdd net-_x23-pad6_ net-_x22-pad6_ net-_x27-pad6_ swi
x28 d8  vdd net-_x25-pad6_ net-_x24-pad6_ net-_x28-pad6_ swi
x29 d8  vdd net-_x27-pad6_ net-_x26-pad6_ net-_x29-pad6_ swi
x30 d9  vdd net-_x29-pad6_ net-_x28-pad6_  out1 swi
x23 d6  vdd net-_x23-pad4_ net-_x12-pad6_ net-_x23-pad6_ swi
r33  h1 net-_r33-pad2_ 10
r34  net-_r33-pad2_ net-_r34-pad2_ 10
r35  net-_r34-pad2_ net-_r35-pad2_ 10
r36  net-_r35-pad2_ net-_r36-pad2_ 10
r37  net-_r36-pad2_ net-_r37-pad2_ 10
r38  net-_r37-pad2_ net-_r38-pad2_ 10
r39  net-_r38-pad2_ net-_r39-pad2_ 10
r40  net-_r39-pad2_ net-_r40-pad2_ 10
x31 d0  vdd net-_r40-pad2_ net-_r39-pad2_ net-_x31-pad6_ swi
x35 d0  vdd net-_r38-pad2_ net-_r37-pad2_ net-_x35-pad6_ swi
x43 d0  vdd net-_r36-pad2_ net-_r35-pad2_ net-_x43-pad6_ swi
x34 d0  vdd net-_r34-pad2_ net-_r33-pad2_ net-_x34-pad6_ swi
r41  net-_r40-pad2_ net-_r41-pad2_ 10
r42  net-_r41-pad2_ net-_r42-pad2_ 10
r43  net-_r42-pad2_ net-_r43-pad2_ 10
x36 d0  vdd net-_r42-pad2_ net-_r41-pad2_ net-_x36-pad6_ swi
r44  net-_r43-pad2_ net-_r44-pad2_ 10
r45  net-_r44-pad2_ net-_r45-pad2_ 10
r46  net-_r45-pad2_ net-_r46-pad2_ 10
r47  net-_r46-pad2_ net-_r47-pad2_ 10
r48  net-_r47-pad2_ net-_r48-pad2_ 10
r49  net-_r48-pad2_ net-_r49-pad2_ 10
r50  net-_r49-pad2_ net-_r50-pad2_ 10
x32 d0  vdd net-_r50-pad2_ net-_r49-pad2_ net-_x32-pad6_ swi
x38 d0  vdd net-_r48-pad2_ net-_r47-pad2_ net-_x38-pad6_ swi
x44 d0  vdd net-_r46-pad2_ net-_r45-pad2_ net-_x44-pad6_ swi
x37 d0  vdd net-_r44-pad2_ net-_r43-pad2_ net-_x37-pad6_ swi
r51  net-_r50-pad2_ net-_r51-pad2_ 10
r52  net-_r51-pad2_ net-_r52-pad2_ 10
r53  net-_r52-pad2_ net-_r53-pad2_ 10
x39 d0  vdd net-_r52-pad2_ net-_r51-pad2_ net-_x39-pad6_ swi
r54  net-_r53-pad2_ net-_r54-pad2_ 10
r55  net-_r54-pad2_ net-_r55-pad2_ 10
r56  net-_r55-pad2_ net-_r56-pad2_ 10
r57  net-_r56-pad2_ net-_r57-pad2_ 10
r58  net-_r57-pad2_ net-_r58-pad2_ 10
r59  net-_r58-pad2_ net-_r59-pad2_ 10
r60  net-_r59-pad2_ net-_r60-pad2_ 10
x33 d0  vdd net-_r60-pad2_ net-_r59-pad2_ net-_x33-pad6_ swi
x41 d0  vdd net-_r58-pad2_ net-_r57-pad2_ net-_x41-pad6_ swi
x45 d0  vdd net-_r56-pad2_ net-_r55-pad2_ net-_x45-pad6_ swi
x40 d0  vdd net-_r54-pad2_ net-_r53-pad2_ net-_x40-pad6_ swi
r61  net-_r60-pad2_ net-_r61-pad2_ 10
r62  net-_r61-pad2_ net-_r62-pad2_ 10
r63  net-_r62-pad2_ net-_r63-pad2_ 10
x42 d0  vdd net-_r62-pad2_ net-_r61-pad2_ net-_x42-pad6_ swi
r64  net-_r63-pad2_ gnd 10
x46 d1  vdd net-_x43-pad6_ net-_x34-pad6_ net-_x46-pad6_ swi
x47 d1  vdd net-_x31-pad6_ net-_x35-pad6_ net-_x47-pad6_ swi
x48 d1  vdd net-_x37-pad6_ net-_x36-pad6_ net-_x48-pad6_ swi
x49 d1  vdd net-_x38-pad6_ net-_x44-pad6_ net-_x49-pad6_ swi
x50 d1  vdd net-_x39-pad6_ net-_x32-pad6_ net-_x50-pad6_ swi
x51 d1  vdd net-_x45-pad6_ net-_x40-pad6_ net-_x51-pad6_ swi
x52 d1  vdd net-_x33-pad6_ net-_x41-pad6_ net-_x52-pad6_ swi
x54 d2  vdd net-_x47-pad6_ net-_x46-pad6_ net-_x54-pad6_ swi
x55 d2  vdd net-_x49-pad6_ net-_x48-pad6_ net-_x55-pad6_ swi
x56 d2  vdd net-_x51-pad6_ net-_x50-pad6_ net-_x56-pad6_ swi
x57 d2  vdd net-_x53-pad6_ net-_x52-pad6_ net-_x57-pad6_ swi
x58 d3  vdd net-_x55-pad6_ net-_x54-pad6_ net-_x58-pad6_ swi
x59 d3  vdd net-_x57-pad6_ net-_x56-pad6_ net-_x59-pad6_ swi
x60 d4  vdd net-_x59-pad6_ net-_x58-pad6_  out2 swi
x53 d1  vdd net-_r63-pad2_ net-_x42-pad6_ net-_x53-pad6_ swi
r1  h1 net-_r1-pad2_ 10
x61 d5  vdd h1 net-_r31-pad2_ net-_x23-pad4_ swi
v3  d1 gnd pulse(0 1.8 2u 50p 50p 2u 4u)
v4  d2 gnd pulse(0 1.8 4u 50p 50p 4u 8u)
v5  d3 gnd pulse(0 1.8 8u 50p 50p 8u 16u)
v6  d4 gnd pulse(0 1.8 16u 50p 50p 16u 32u)
v7  d5 gnd pulse(0 1.8 32u 50p 50p 32u 64u)
v8  d6 gnd pulse(0 1.8 64u 50p 50p 64u 128u)
v9  d7 gnd pulse(0 1.8 128u 50p 50p 128u 256u)
v10  d8 gnd pulse(0 1.8 256u 50p 50p 256u 512u)
v11  d9 gnd pulse(0 1.8 512u 50p 50p 512u 1024u)
c2   out1 gnd 1p
c1   out2 gnd 1p
v2 net-_r1-pad2_ gnd  dc 0
x9 d5  vdd net-_r20-pad2_ net-_r19-pad2_ net-_x20-pad4_ swi
* u3   out1 gnd plot_v2
* u1   out2 gnd plot_v2
* u2   aout plot_v1
c3   aout gnd 1p
r65   out1 net-_r65-pad2_ 10k
r66   out2 net-_r66-pad2_ 10k
r67  net-_r65-pad2_  aout 10k
x62 gnd gnd net-_r66-pad2_ net-_r65-pad2_ gnd  vdd  aout opamp_2
r68  net-_r66-pad2_  aout 10k
.tran 1e-06 1024e-06 0e-06

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v( out1,gnd)
plot v( out2,gnd)
plot v( aout)
.endc
.end
