* /home/ameya/esim/esim-2.0/library/subcircuitlibrary/swi/swi.cir

.include PMOS-180nm.lib
.include NMOS-180nm.lib
m1 /d0 /d gnd gnd CMOSN W=0.18u L=0.18u M=1
m2 /vdd /d /d0 /vdd CMOSP W=0.45u L=0.18u M=1
m5 /out net-_m5-pad2_ /vil /vdd CMOSP W=0.45u L=0.18u M=1
m3 /out /d0 /vil gnd CMOSN W=0.18u L=0.18u M=1
m6 /vih net-_m5-pad2_ /out gnd CMOSN W=0.18u L=0.18u M=1
m4 /vih /d0 /out /vdd CMOSP W=0.45u L=0.18u M=1
* u1  /d /vdd /vil /vih /out port
m7 net-_m5-pad2_ /d0 gnd gnd CMOSN W=0.18u L=0.18u M=1
m8 /vdd /d0 net-_m5-pad2_ /vdd CMOSP W=0.45u L=0.18u M=1
c1  /out gnd 200f
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
